US05117057
Preparation of N'-t-butyl-N-furoyl-N'-benzylhydrazine
Benzyl bromide (1.8 g), 1-furoyl-2-t-butyl hydrazine (2 g) and excess powdered potassium carbonate were stirred in dimethylformamide (50 ml) at 50° C. for 2 hours. The reaction mixture was cooled to room temperature, diluted with diethyl ether and washed several times with water. The organic layer was dried over magnesium sulfate, filtered, and the solvent removed in vacuo. The white solid product was chromatographed on silica gel (G:70°-230 mesh) using methylene chloride as eluent to afford the product in good yield: m.p. 152°-153.

reactant | Benzyl bromide | 1.8 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-furoyl-2-t-butyl hydrazine | 2 g | O1C(=CC=C1)C(=O)NNC(C)(C)C | C9H14N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N'-t-butyl-N-furoyl-N'-benzylhydrazine | C(C)(C)(C)N(NC(=O)C=1OC=CC1)CC1=CC=CC=C1 | C16H20N2O2
